US08486943B2
[(S)-7-Cyano-4-(2-methoxy-benzyl)-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid isopropyl ester
A mixture of ((S)-7-cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid isopropyl ester (2.0 g, 7.06 mmol) and cesium carbonate (3.22 g, 9.88 mmol) in DMF (40 mL) is treated with 2-methoxybenzyl chloride (1.16 g, 7.41 mmol). The reaction is heated at 50° C. for 18 h. The reaction is cooled to room temperature and diluted with water (300 mL). The white solid is collected and washed with water. The solid is dried in a 40° C. vacuum oven. After drying, 2.80 g (98%) product is obtained as a white solid. LC-ES/MS m/z 404 [M+H]+, TR=2.83 min.

reactant | ((S)-7-cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid isopropyl ester | 7.06 mmol, 2.0 g | C(C)(C)OC(N[C@H]1CC2=C(NC=3C=CC(=CC23)C#N)C1)=O | C16H17N3O2
reactant | cesium carbonate | 9.88 mmol, 3.22 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-methoxybenzyl chloride | 7.41 mmol, 1.16 g | COC1=C(CCl)C=CC=C1 | C8H9ClO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | 300 mL | O | H2O
product | [(S)-7-Cyano-4-(2-methoxy-benzyl)-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid isopropyl ester | 2.80 g, 98% | C(C)(C)OC(N[C@H]1CC2=C(N(C=3C=CC(=CC23)C#N)CC2=C(C=CC=C2)OC)C1)=O | C24H25N3O3
